US07592456B2
Step 2: 2-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}phenyl)pyrazine
The title compound was prepared from sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (145 mg, 0.47 mmol) and 2-(2-iodophenyl)pyrazine (0.11 g, 0.46 mmol) according to the methods of Example 6 Step 4. Purification by flash column chromatography eluting with a 10-60% ethyl acetate/isohexane gradient gave 2-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}phenyl)pyrazine (79 mg, 38%). 1H NMR (500 MHz, CDCl3) δ 8.77 (1H, d, J=1.2 Hz), 8.51 (1H, d, J=2.4 Hz), 8.44-8.38 (1H, m), 8.28-8.23 (1H, m), 8.03 (1H, s), 7.98 (1H, s), 7.87 (2H, t, J=8.8 Hz), 7.79 (1H, dd, J=1.6, 8.5 Hz), 7.74-7.62 (4H, m), 7.56 (1H, dd, J=1.7, 8.6 Hz), 7.42-7.35 (1H, m), 7.23-7.15 (2H, m); m/z (ES+) 441 [MH+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 0.47 mmol, 145 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | 2-(2-iodophenyl)pyrazine | 0.46 mmol, 0.11 g | IC1=C(C=CC=C1)C1=NC=CN=C1 | C10H7IN2
product | 2-(2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}phenyl)pyrazine | 79 mg, 38% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)C1=NC=CN=C1 | C26H17FN2O2S
